US08440666B2
1-(5-Bromo-6-oxo-4-{[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-yl]amino}pyridazin-1(6H)-yl)-N-(pyridin-4-ylmethyl)cyclobutanecarboxamide
2-(5-Bromo-6-oxo-4-{[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-yl]amino}pyridazin-1(6H)-yl)cyclobutaneacetic acid (108.7 mg, 0.256 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (98.2 mg, 0.512 mmol), 1-hydroxybenzotriazole anhydride (10.8 mg, 0.08 mmol) and triethylamine (71.4 μL, 0.512 mmol) in N,N-dimethylformamide (1 mL) were stirred with 4-picolylamine (51.3 μL, 0.512 mmol) at room temperature for 22 hours. After completion of the reaction, ethyl acetate was added, and the organic layer was washed with saturated aqueous ammonium chloride and saturated aqueous sodium chloride, dried over anhydrous sodium sulfate and evaporated under reduced pressure. The resulting residue was purified by silica gel column chromatography (ethyl acetate/methanol=20/1) to give the desired product (53.8 mg, 41% yield).

reactant | 2-(5-Bromo-6-oxo-4-{[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-yl]amino}pyridazin-1(6H)-yl)cyclobutaneacetic acid | 0.256 mmol, 108.7 mg | BrC1=C(C=NN(C1=O)C1C(CC1)CC(=O)O)N[C@H]1[C@@H]([C@@H]2C([C@H](C1)C2)(C)C)C | C20H28BrN3O3
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.512 mmol, 98.2 mg | Cl.CN(CCCN=C=NCC)C
reactant | triethylamine | 0.512 mmol, 71.4 μL | C(C)N(CC)CC | C6H15N
reactant | 4-picolylamine | 0.512 mmol, 51.3 μL | N1=CC=C(C=C1)CN | C6H8N2
reactant | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(5-Bromo-6-oxo-4-{[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-yl]amino}pyridazin-1(6H)-yl)-N-(pyridin-4-ylmethyl)cyclobutanecarboxamide | 53.8 mg, 41% yield | BrC1=C(C=NN(C1=O)C1(CCC1)C(=O)NCC1=CC=NC=C1)N[C@H]1[C@@H]([C@@H]2C([C@H](C1)C2)(C)C)C | C25H32BrN5O2
